*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGPD350ELL132MK20H
*//   Date        : 2018/02/16
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/135deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-40deg.C/135deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPD350ELL132MK20H_20deg-C 1 2

C1 4 2 1.00e-03
C2 5 2 1.69e-04
C3 6 2 3.70e-05
R1 3 4 2.71e-02
R2 4 5 1.02e-01
R3 5 6 2.30e+00
L1 1 3 5.50e-09

.ENDS

.SUBCKT EGPD350ELL132MK20H_-40deg-C 1 2

C1 4 2 6.11e-05
C2 5 2 2.86e-04
C3 6 2 8.09e-04
R1 3 4 1.33e-01
R2 4 5 2.05e-02
R3 5 6 6.28e-02
L1 1 3 5.50e-09

.ENDS

.SUBCKT EGPD350ELL132MK20H_135deg-C 1 2

C1 4 2 9.31e-04
C2 5 2 3.70e-04
C3 6 2 5.81e-05
R1 3 4 1.45e-02
R2 4 5 6.85e-02
R3 5 6 9.77e+00
L1 1 3 5.50e-09

.ENDS
*$
